US04254135
Cis-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide.
Forty-one grams of 2-(4-chlorophenyl)-5-cyclohexyl-5,6-dihydro-4H-pyrrolo-[3,4-d]oxazole was dissolved in 500 ml. of 95% ethanol and the solution was heated at reflux for one hour. The solvent was evaporated under vacuum and replaced with methylene chloride. The methyl chloride was washed with dilute sodium hydroxide, dried and evaporated. The product was crystallized from benzene. Yield was 33.2 g (94.5%); m.p. 158°-160° C.

reactant | 2-(4-chlorophenyl)-5-cyclohexyl-5,6-dihydro-4H-pyrrolo-[3,4-d]oxazole | Forty-one grams | ClC1=CC=C(C=C1)C=1OC2=C(N1)CN(C2)C2CCCCC2 | C17H19ClN2O
reactant | ethanol | C(C)O | C2H6O
product | Cis-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide | ClC1=CC=C(C(=O)N[C@@H]2CN(C[C@@H]2O)C2CCCCC2)C=C1 | C17H23ClN2O2
